US06967208B2
1-(3-chloro-4-fluorophenyl)-6-[4-(2-oxo-1-piperidinyl)phenyl]-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridine-7-one (0.35 g, 0.69 mmol), Zn(CN)2 (81 mg, 0.69 mmol), Pd2(dba)3 (63 mg, 0.07 mmol), dppf (77 mg, 0.14 mmol), and Zn (9 mg, 0.14 mmol) were added to 15 mL of DMAC. The mixture was degassed under argon and stirred at 140° C. under N2 for 12 h. The reaction was cooled to rt, ethylacetate (75 mL) was added and the mixture was filtered through Celite®. The filtrate was washed with saturated NaHCO3 solution (30 mL), water (30 mL×3), and brine (20 mL). It was then dried over Na2SO4, filtered, and concentrated. The residue was purified via flash chromatography on silica gel with 10% methanol in dichloromethane to give 2-fluoro-5-[7-oxo-6-[4-(2-oxo-1-piperidinyl)phenyl]-3-(trifluoromethyl)-4,5,6,7,-tetrahydro-1H-pyrazolo[3,4-c]pyridin-1-yl]benzonitrile (0.17 g, 50% yield). LRMS (AP+): 498.2 (M+H)+. 1H NMR (CDCl3) δ 7.91-7.85 (m, 2H), 7.31 (s, 4H), 7.28-7.25 (m, 1H), 4.16 (t, 2H), 3.63-3.61 (m, 2H), 3.18 (t, 2H), 2.56 (t, 2H), 1.96-1.93 (m, 4H).

reactant | 1-(3-chloro-4-fluorophenyl)-6-[4-(2-oxo-1-piperidinyl)phenyl]-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridine-7-one | 0.69 mmol, 0.35 g | ClC=1C=C(C=CC1F)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(CCCC2)=O)=O)C(F)(F)F | C24H19ClF4N4O2
reactant | DMAC | 15 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 0.69 mmol, 81 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.07 mmol, 63 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.14 mmol, 77 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn | 0.14 mmol, 9 mg | [Zn] | Zn
product | 2-fluoro-5-[7-oxo-6-[4-(2-oxo-1-piperidinyl)phenyl]-3-(trifluoromethyl)-4,5,6,7,-tetrahydro-1H-pyrazolo[3,4-c]pyridin-1-yl]benzonitrile | 0.17 g, 50% yield | FC1=C(C#N)C=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(CCCC2)=O)=O)C(F)(F)F | C25H19F4N5O2
